US07271197B2
i) 1-(4-{[tert-Butyl(dimethyl)silyl]oxy}phenyl)acetone
A solution of tert-butyldimethylsilyl chloride (13.6 g) in DMF (50 ml) was added dropwise to stirred solution of 4-hydroxyphenylacetone (12.5 g) and imidazole (9.0 g) in DMF (150 ml) at 20° under N2. After 0.67 h additional tert-butyldimethylsilyl chloride (4.7 g) was added and the reaction stirred for 0.75 h. The reaction mixture was concentrated in vacuo and the residue partitioneed between Et2O and water. The organic phase was washed with water, brine, dried (MgSO4) and evaporated to dryness. The residue was purified by chromatography on a Biotage (90 g) eluting with cyclohexane-Et2O (9:1) to give the title compound (17.5 g), ES+ve 282 (M+NH4)+

reactant | tert-butyldimethylsilyl chloride | 13.6 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 4-hydroxyphenylacetone | 12.5 g | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
reactant | imidazole | 9.0 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 4.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 1-(4-{[tert-Butyl(dimethyl)silyl]oxy}phenyl)acetone | 17.5 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CC(=O)C | C15H24O2Si
